US06743926B2
3-(4-Fluorophenyl)-1-isopropyl-1H-indole-2-carbaldehyde
5.77 g (78.96 mmol) of DMF are weighed into a 100 ml three-necked round-bottomed flask, equipped with a magnetic stirrer, thermometer, dropping funnel, reflux condenser and nitrogen delivery line, and cooled, with stirring, to 3° C. 12.11 g (78.96 mmol) of phosphorus oxychloride are then slowly added dropwise so that the internal temperature does not exceed 10° C. The reaction mixture is then heated to 80° C. and 10 g (39.48 mmol) of 3-(4-fluorophenyl)-1-isopropyl-1H-indole, dissolved in 10 ml of DMF, are added dropwise in the course of 30 min. Stirring is subsequently carried out for 1.5 hours at that temperature. Cooling and dilution with 10 ml of DMF are then carried out. The reaction mixture is transferred into a dropping funnel and, with stirring, slowly added dropwise at 40° C. to 10 g (0.25 mol) of sodium hydroxide in 200 ml of water. The aqueous phase is extracted four times with 50 ml of toluene and the combined organic phases are washed six times with 100 ml of water. Subsequently, 10 g of silica gel are added, the mixture is stirred for 1 hour and filtration is carried out, followed by washing three times with 50 ml of toluene and concentration by evaporation. 10.17 g of a brown oil are obtained, which is dissolved in 100 ml of hexane under reflux. 10 g of silica gel are added, and filtration is carried out while hot, followed by washing three times with 50 ml of hot hexane. The filtrate is concentrated by evaporation and the residue is recrystallised from 94% ethanol. Slightly beige crystals having a melting point of from 89.5 to 91° C. are obtained.

reactant | phosphorus oxychloride | 78.96 mmol, 12.11 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(4-fluorophenyl)-1-isopropyl-1H-indole | 39.48 mmol, 10 g | FC1=CC=C(C=C1)C1=CN(C2=CC=CC=C12)C(C)C | C17H16FN
reactant | sodium hydroxide | 0.25 mol | [OH-].[Na+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | DMF | 78.96 mmol, 5.77 g | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | 3-(4-Fluorophenyl)-1-isopropyl-1H-indole-2-carbaldehyde | 10.17 g | FC1=CC=C(C=C1)C1=C(N(C2=CC=CC=C12)C(C)C)C=O | C18H16FNO
